* Z:\mnt\design.r\spice\examples\3506.asc
V1 IN 0 5
C1 N014 0 100p
C2 N002 N004 .1µ
L1 N004 OUT1 3.3µ
R1 OUT1 N006 15K
R2 0 N006 30.1K
D1 0 N004 MBRS340
C3 OUT1 0 68µ
C4 N009 N010 .0022µ
R4 N012 OUT1 10K
C5 N013 0 100p
C6 N001 N003 .1µ
L2 N003 OUT2 4.7µ
R5 OUT2 N005 22.6K
R6 0 N005 18.2K
D2 0 N003 MBRS340
C7 OUT2 0 47µ
C8 N008 N007 .0022µ
R8 N011 OUT2 10K
XU1 N002 MP_01 N004 IN MP_02 N003 0 N001 N005 N008 N011 N013 N014 N012 N009 N006 LT3506
R9 N007 0 10K
R10 0 N010 10K
D3 IN N001 BAT54
D4 IN N002 BAT54
Rload2 OUT2 0 1.2
Rload1 OUT1 0 .8
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 350u startup
.lib LT3506.sub
.backanno
.end
